US05298663
By a procedure analogous to that of Example 1, but using 1.96 g of ethyl diethoxymethylphosphinate and 20 ml of a molar solution of benzylmagnesium chloride in diethyl ether and adding 4.14 g of potassium carbonate in 5 ml of water to precipitate inorganic salts, benzyl (diethoxymethyl) phosphine oxide is obtained as a colourless oil.

reactant | ethyl diethoxymethylphosphinate | 1.96 g | C(C)OC(OCC)P(OCC)=O | C7H17O4P
reactant | benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 5 ml | O | H2O
product | benzyl (diethoxymethyl) phosphine oxide | C(C1=CC=CC=C1)P(C(OCC)OCC)=O | C12H19O3P
